US07897597B2
Triethylamine (0.89 mL, 6.4 mmol) was added to a solution of 1-(4-aminobutyl)-7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (2.55 g, 6.07 mmol) in anhydrous acetonitrile (255 mL), and the mixture was heated until it became homogeneous. The reaction was allowed to cool to ambient temperature, and methanesulfonic anhydride (1.11 g, 6.38 mmol) was slowly added. The reaction was stirred at ambient temperature for four hours, and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate, and the resulting solution was washed with aqueous sodium bicarbonate. The aqueous solution was washed once with ethyl acetate, and the combined organic solutions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was recrystallized from ethanol and dried for 24 hours in a vacuum oven at 85° C. to provide 0.350 g of N-{4-[4-amino-7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide as a brown solid, mp 144.5-147.6° C.

reactant | Triethylamine | 6.4 mmol, 0.89 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminobutyl)-7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 6.07 mmol, 2.55 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)OCC2=CC=CC=C2)N)CCOC | C24H29N5O2
reactant | methanesulfonic anhydride | 6.38 mmol, 1.11 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 255 mL | C(C)#N | C2H3N
product | N-{4-[4-amino-7-benzyloxy-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}methanesulfonamide | 0.350 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)CCOC)OCC2=CC=CC=C2 | C25H31N5O4S
